US07384934B2
(S)-10-[3-(3-Methoxy-propyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Combine 2-isopropyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione (0.5 g, 1.816 mmol), methyl triflate (0.306 mL, 2.723 mmol) in dichloromethane (4 mL) and stir at ambient temperature for 2 hours. Evaporate the mixture uner reduced pressure and then combine the residue with (S)-2-(3-methoxy-propyl)-piperazine (0.287 g, 1.816 mmol) and pyridine (4 mL) and reflux for 8 hours. Concentrate the reaction mixture under reduced pressure and dilute the residue with ethyl acetata. Wash the organic with brine twice, dry over sodium sulfate, filter and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography, eluting with 2M ammonia in methanol:dichloromethane (5:95) to give the title compound: mass spectrum (m/e):400.03 (M+1).

reactant | 2-isopropyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione | 1.816 mmol, 0.5 g | C(C)(C)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C13H13N3S2
reactant | methyl triflate | 2.723 mmol, 0.306 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | (S)-2-(3-methoxy-propyl)-piperazine | 1.816 mmol, 0.287 g | COCCC[C@@H]1NCCNC1 | C8H18N2O
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (S)-10-[3-(3-Methoxy-propyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | COCCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C21H29N5OS
